US08003651B2
HBTU (0.033 g, 0.086 mmol) was added to a solution of (R)-5-methyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine dihydrochloride (0.025 g, 0.086 mmol), 4-(tert-butoxycarbonylamino)-2-(4-chlorophenyl)-4-methylpentanoic acid (0.029 g, 0.086 mmol), and DIEA (0.045 mL, 0.26 mmol) in DCM (1.2 mL). The reaction was shaken overnight (16 hours), after which it was diluted with 2M Na2CO3 and extracted with DCM. The extracts were dried (Na2SO4), filtered, and concentrated. The crude was flashed on Biotage 12S (ca. 100 mL 3:1 DCM:EA flushed to elute DIEA, then 1:3 DCM:EA eluted prod) to give (R)-tert-butyl 4-(4-chlorophenyl)-2-methyl-5-(4-(5-methyl-6,7-dihydro-5H-cyclopenta[d ]pyrimidin-4-yl)piperazin-1-yl)-5-oxopentan-2-ylcarbamate (0.044 g, 95% yield) as a residue. LCMS (APCI+) [M+H]− 542.2; Rt: 2.94 min.

reactant | HBTU | 0.086 mmol, 0.033 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (R)-5-methyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine dihydrochloride | 0.086 mmol, 0.025 g | Cl.Cl.C[C@@H]1CCC=2N=CN=C(C21)N2CCNCC2
reactant | 4-(tert-butoxycarbonylamino)-2-(4-chlorophenyl)-4-methylpentanoic acid | 0.086 mmol, 0.029 g | C(C)(C)(C)OC(=O)NC(CC(C(=O)O)C1=CC=C(C=C1)Cl)(C)C | C17H24ClNO4
reactant | DIEA | 0.26 mmol, 0.045 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 1.2 mL | C(Cl)Cl | CH2Cl2
solvent | Na2CO3 | 2M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EA | CC(OCC)=O | C4H8O2
product | (R)-tert-butyl 4-(4-chlorophenyl)-2-methyl-5-(4-(5-methyl-6,7-dihydro-5H-cyclopenta[d ]pyrimidin-4-yl)piperazin-1-yl)-5-oxopentan-2-ylcarbamate | 0.044 g, 95% yield | ClC1=CC=C(C=C1)[C@@H](CC(C)(C)NC(OC(C)(C)C)=O)C(=O)N1CCN(CC1)C=1C2=C(N=CN1)CCC2C | C29H40ClN5O3
